US04252818
Step C: 2,4-Dihydroxy-3-propylacetophenone
Dissolve 9.6 gm of 3-allyl-2,4-dihydroxyacetophenone in 100 ml of ethanol; flush with nitrogen and add 0.5 gm of 5% palladium/charcoal catalyst. Hydrogenate in a Parr apparatus at room temperature until 45 p.s.i. of hydrogen is taken up. Filter and strip the filtrate to dryness to obtain the title product. (mp 125°-127° C.)

reactant | 3-allyl-2,4-dihydroxyacetophenone | 9.6 gm | CC(=O)C1=C(C(=C(C=C1)O)CC=C)O | C11H12O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,4-Dihydroxy-3-propylacetophenone | CCCC1=C(C=CC(=C1O)C(=O)C)O | C11H14O3
